US03991064
1,2,3,4-Tetrahydro-8,9-dimethoxy-3-benzoyl-6-methylbenzo-[c][2,7]naphthyridin:5(6H)-one.
A stirred suspension of 0.017 m of NaH (washed with petroleum ether) in 50 ml of dimethyl formamide was treated in portions with 5 g (0.0137 m) of 1,2,3,4-tetrahydro-8,9-dimethoxy-3-benzoyl-benzo[c][2,7]naphthyridin-5(6H)-one. After stirring for 10 min, the reaction was treated with 5 g (0.035 m) of CH3I and stirred an additional 45 min. Dilution with water to 250 ml and filtration gave 4.8 g (93%) of crude material. Crystallization from methanol/CH2Cl2 afforded pure material, mp 241°-243° C.

reactant | NaH | [H-].[Na+]
reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-3-benzoyl-benzo[c][2,7]naphthyridin-5(6H)-one | 5 g | COC=1C(=CC2=C(NC(C=3CN(CCC23)C(C2=CC=CC=C2)=O)=O)C1)OC | C21H20N2O4
reactant | CH3I | 5 g | CI | CH3I
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-8,9-dimethoxy-3-benzoyl-6-methylbenzo-[c][2,7]naphthyridin | 4.8 g, 93% | COC=1C(=CC2=C(N(CC=3CN(CCC23)C(C2=CC=CC=C2)=O)C)C1)OC | C22H24N2O3
